US05639770
A solution of 0.32 g of sodium hydroxide dissolved in 20 ml of ethanol and 20 ml of water was added to 0.54 g of 2-(3,4-diethoxyphenyl)-4-(5-hydroxy-6-ethoxycarbonyl-2-pyridyl)thiazole. The mixture was refluxed for 2.5 hours. To the reaction mixture was added 100 ml of water. The mixture was made acidic with concentrated hydrochloric acid and subjected to extraction four times with 70 ml of ethyl acetate. The solvent in the extract was removed and the resulting residue was recrystallized from ethyl acetate-diethyl ether to obtain 0.24 g of 2-(3,4-diethoxyphenyl)-4-(5-hydroxy-6-carboxy-2-pyridyl)thiazole. m.p.: 161.4°-162° C.

reactant | sodium hydroxide | 0.32 g | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | 2-(3,4-diethoxyphenyl)-4-(5-hydroxy-6-ethoxycarbonyl-2-pyridyl)thiazole | 0.54 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=C(C=C1)O)C(=O)OCC | C21H22N2O5S
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(3,4-diethoxyphenyl)-4-(5-hydroxy-6-carboxy-2-pyridyl)thiazole | 0.24 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=C(C=C1)O)C(=O)O | C19H18N2O5S
